US04677129
(a) 1-(4-aminophenyl)-3-isopropyl-3-azabicyclo[3.1.1]-heptane-2,4-dione
In a manner analogous to that described in Example 1a, 2.3 g of 3-isopropyl-1-(4-nitrophenyl)-3-azabicyclo[-3.1.1]-heptane-2,4-dione are dissolved in 50 ml of ethyl acetate, hydrogenated in the presence of 0.25 g of 5% palladium-on-carbon and worked up. Melting point 191°-201° (from ethyl acetate/hexane).

reactant | 3-isopropyl-1-(4-nitrophenyl)-3-azabicyclo[-3.1.1]-heptane-2,4-dione | 2.3 g | C(C)(C)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C15H16N2O4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.25 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-isopropyl-3-azabicyclo[3.1.1]-heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)C(C)C)=O | C15H18N2O2
